US07709471B2
Ethyl1-(aminomethyl)cyclopropane-1-carboxylate
Ethyl1-cyanocyclopropane-1-carboxylate (Aldrich; 76.45 g, 550 mmol), Platinum Oxide (7.5 g) and Acetic acid (1 L) were combined then stirred at room temperature under hydrogen at 4 bar pressure for 8 hours. The reaction mixture was filtered and the filtrate concentrated in vacuo to give the title compound as a colourless oil containing 4.5 equivalents of acetic acid. (115 g, 51%)

reactant | Ethyl1-cyanocyclopropane-1-carboxylate | 550 mmol, 76.45 g | C(C)OC(=O)C1(CC1)C#N | C7H9NO2
catalyst | Platinum Oxide | 7.5 g | [Pt]=O
solvent | Acetic acid | 1 L | C(C)(=O)O | C2H4O2
product | Ethyl1-(aminomethyl)cyclopropane-1-carboxylate | C(C)OC(=O)C1(CC1)CN | C7H13NO2
